US07112582B2
Step 4: (6,7-Dihydro-4H-pyrazolo[5,1-c][1,4]thiazin-2-yl)methanol
LiBH4 (cont. 90%) (536 mg) and MeOH (0.9 mL) was added to the THF (59 mL) solution of 6,7-dihydro-4H-pyrazolo[5,1-c][1,4]thiazine-2-carboxylic acid ethyl ester (3.13 g) under a nitrogen atmosphere at room temperature and stirred for 3 h at 40° C. The mixture was quenched with 1 mol/L HCl at pH 1 and stirred for 1 h at room temperature. Solid K2CO3 was added to the solution to adjust pH to 8 and the mixture was extracted with AcOEt. The organic layer was dried (K2CO3) and filtered. The filtrate was concentrated under reduced pressure to afford titled compound as pale yellow oil (2.51 g, quant.).

reactant | LiBH4 | 536 mg | [Li+].[BH4-]
reactant | MeOH | 0.9 mL | CO | CH4O
reactant | 6,7-dihydro-4H-pyrazolo[5,1-c][1,4]thiazine-2-carboxylic acid ethyl ester | 3.13 g | C(C)OC(=O)C1=NN2C(CSCC2)=C1 | C9H12N2O2S
solvent | THF | 59 mL | C1CCOC1 | C4H8O
product | (6,7-Dihydro-4H-pyrazolo[5,1-c][1,4]thiazin-2-yl)methanol | 2.51 g | N1=C(C=C2CSCCN21)CO | C7H10N2OS
